US07241761B2
(b) 2-Piperazin-1-yl-quinoline hydrochloride
Prepared in analogy to example 1.6 (d) from 4-quinolin-2-yl-piperazine-1-carboxylic acid tert.-butyl ester and dioxane saturated with gaseous hydrochloric acid.

reactant | 4-quinolin-2-yl-piperazine-1-carboxylic acid tert.-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC2=CC=CC=C2C=C1 | C18H23N3O2
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Piperazin-1-yl-quinoline hydrochloride | Cl.N1(CCNCC1)C1=NC2=CC=CC=C2C=C1 | InChI=1S/C13H15N3.ClH/c1-2-4-12-11(3-1)5-6-13(15-12)16-9-7-14-8-10-16;/h1-6,14H,7-10H2;1H
